US09024027B2
To a suspension of ethyl 2-(3-amino-1H-indol-1-yl)acetate hydrochloride (220 mg, 0.864 mmol) in dry DCM (4 ml), cooled at 0° C. under nitrogen, methanesulfonyl chloride (67.3 μl, 0.864 mmol) and dry pyridine (559 μl, 6.91 mmol) were added. After stirring at 0° C. for 4 hours, the mixture was partitioned between 5% aqueous citric acid and DCM; the organic phase was washed with water, dried over Na2SO4 and evaporated to give ethyl 2-(3-(methylsulfonamido)-1H-indol-1-yl)acetate (221 mg, 0.746 mmol, 86% yield). MS/ESI+ 319.0 [MNa]+. This product was used in the next step without any additional purification.

reactant | ethyl 2-(3-amino-1H-indol-1-yl)acetate hydrochloride | 0.864 mmol, 220 mg | Cl.NC1=CN(C2=CC=CC=C12)CC(=O)OCC
reactant | methanesulfonyl chloride | 0.864 mmol, 67.3 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | pyridine | 6.91 mmol, 559 μl | N1=CC=CC=C1 | C5H5N
solvent | DCM | 4 ml | C(Cl)Cl | CH2Cl2
product | ethyl 2-(3-(methylsulfonamido)-1H-indol-1-yl)acetate | 0.746 mmol, 221 mg, 86% yield | CS(=O)(=O)NC1=CN(C2=CC=CC=C12)CC(=O)OCC | C13H16N2O4S
